US05750531
Step 2: 5,6-Dimethyl-2-(2-methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.8 ml, 7 mmol) was added to a mixture solution of 5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine(1.0 g, 3.6 mmol) and dimethylformamide(10 ml), 0.58 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 7 mmol, 0.8 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine | 3.6 mmol, 1.0 g | CC=1C(=NC(=NC1C)Cl)N1CC2=CC=CC=C2CC1 | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-Dimethyl-2-(2-methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.58 g, Yield: 44% | Cl.CC=1C(=NC(=NC1C)NC1=C(C=C(C=C1)F)C)N1CC2=CC=CC=C2CC1 | InChI=1S/C22H23FN4.ClH/c1-14-12-19(23)8-9-20(14)25-22-24-16(3)15(2)21(26-22)27-11-10-17-6-4-5-7-18(17)13-27;/h4-9,12H,10-11,13H2,1-3H3,(H,24,25,26);1H
